US07109360B1
3-Methoxy-8α-estra-1,3,5(10)-trien-17-one-17-phenylsulfonylhydrazone
A suspension of 5.68 g (20 mmol) of 3-methoxy-8α-estra-1,3,5(10)-trien-17-one and 4.30 g (25 mmol) of benzenesulfonic acid hydrazide in 70 ml of ethanol is mixed with 3 drops of concentrated hydrochloric acid and then allowed to react at a bath temperature of 80–90° C. for three hours while being stirred vigorously. After the reaction solution is cooled, the precipitated product is suctioned off, rewashed with a little cold ethanol, and the hydrazone is dried in a vacuum. 8.10 g (92%) of product, which melts at 183–185° C., is obtained.

reactant | 3-methoxy-8α-estra-1,3,5(10)-trien-17-one | 20 mmol, 5.68 g | COC1=CC=2CC[C@@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C19H24O2
reactant | benzenesulfonic acid hydrazide | 25 mmol, 4.30 g | C1(=CC=CC=C1)S(=O)(=O)NN | C6H8N2O2S
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
product | 3-Methoxy-8α-estra-1,3,5(10)-trien-17-one-17-phenylsulfonylhydrazone | 8.10 g, 92% | C1(=CC=CC=C1)S(=O)(=O)NN=C1[C@]2(C)[C@@H](CC1)[C@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C25H30N2O3S
